US04877899
To a cooled (5°) solution of methyl propiolate (1.96 g, 23.0 mmol) is added 2 drops of DBU. 1-Hexanethiol (2.5 g, 21.0 mmol) is then added over a period of 3 minutes. The ice bath is removed, and the reaction mixture is stirred at RT for 1.5 hours. It is then purified by prep. TLC (preparative thin layer chromatography) to give methyl 3-hexylthio-2-propenoate.

reactant | methyl propiolate | 23.0 mmol, 1.96 g | C(C#C)(=O)OC | C4H4O2
reactant | 1-Hexanethiol | 21.0 mmol, 2.5 g | C(CCCCC)S | C6H14S
catalyst | DBU | 2 drops | C1CCC2=NCCCN2CC1 | C9H16N2
product | methyl 3-hexylthio-2-propenoate | C(CCCCC)SC=CC(=O)OC | C10H18O2S
